US08114886B2
5-[(2,5-Difluorophenyl)(phenylsulfonyl)methyl]-N-(2-hydroxyethyl)-4-methylpyridine-2-carboxamide
5-[(2,5-Difluorophenyl) (phenylsulfonyl)methyl]-4-meth ylpyridine-2-carboxylic acid (90 mg, 0.22 mmol), 2-aminoethanol (27 μl, 0.45 mmol), 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (64 mg, 0.34 mmol), 1-hydroxybenzotriazole (30 mg, 0.22 mmol), and triethylamine (92 μl, 0.66 mmol) were dissolved in methylene chloride (15 ml), and the resulting solution was stirred overnight at room temperature. Water was added to the reaction mixture, and the resulting mixture was extracted twice with methylene chloride. The combined organic layer was dried over anhydrous sodium sulfate and filtered, and then the filtrate was concentrated under reduced pressure. The resulting residue was purified by preparative thin-layer chromatography (developed with 5% methanol/methylene chloride, eluted with 30% methanol/methylene chloride), to obtain the title compound (30 mg, 0.067 mmol, 30%) as a white amorphous substance.

reactant | 5-[(2,5-Difluorophenyl) (phenylsulfonyl)methyl]-4-meth ylpyridine-2-carboxylic acid | 0.22 mmol, 90 mg | FC1=C(C=C(C=C1)F)C(C=1C(=CC(=NC1)C(=O)O)C)S(=O)(=O)C1=CC=CC=C1 | C20H15F2NO4S
reactant | 2-aminoethanol | 0.45 mmol, 27 μl | NCCO | C2H7NO
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 0.34 mmol, 64 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | 1-hydroxybenzotriazole | 0.22 mmol, 30 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | triethylamine | 0.66 mmol, 92 μl | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 15 ml | C(Cl)Cl | CH2Cl2
solvent | Water | O | H2O
product | 5-[(2,5-Difluorophenyl)(phenylsulfonyl)methyl]-N-(2-hydroxyethyl)-4-methylpyridine-2-carboxamide | 0.067 mmol, 30 mg, 30% | FC1=C(C=C(C=C1)F)C(C=1C(=CC(=NC1)C(=O)NCCO)C)S(=O)(=O)C1=CC=CC=C1 | C22H20F2N2O4S
